US08877782B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-isonicotinamide
As described for example 58c, 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid (78 mg, 0.3 mmol) was converted, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (61 mg, 62%) which was obtained as a white solid. MS: m/e=394.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid | 0.3 mmol, 78 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1C=C(C(=O)O)C=CN1 | C17H14N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-isonicotinamide | 61 mg, 62% | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1C=C(C(=O)NC2CCOCC2)C=CN1 | C22H23N3O4
